US06087380
e) 1-Methyl-2-[(4-cyanophenyl)oxymethyl]-imidazo[4,5-b]-pyridine-5-carbaldehyde
3.65 g (12.5 mMol) of 1-methyl-2-[(4-cyanophenyl)-oxymethyl]-5-hydroxymethyl-imidazo[4,5-b]pyridine were dissolved in 500 ml dichloromethane and mixed with 15.0 g of manganese dioxide. After 96 hours at room temperature the mixture was filtered through kieselgur and the solvent was distilled off. The filtrate obtained was evaporated down, the crystalline precipitate was triturated with ether, suction filtered and dried. Yield: 3.05 g white powder (84% of theory), C16H12N4O2 (292.30) Melting point: 231-234° C.

reactant | 1-methyl-2-[(4-cyanophenyl)-oxymethyl]-5-hydroxymethyl-imidazo[4,5-b]pyridine | 12.5 mMol, 3.65 g | CN1C(=NC2=NC(=CC=C21)CO)COC2=CC=C(C=C2)C#N | C16H14N4O2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 15.0 g | [O-2].[O-2].[Mn+4]
product | 1-Methyl-2-[(4-cyanophenyl)oxymethyl]-imidazo[4,5-b]-pyridine-5-carbaldehyde | CN1C(=NC2=NC(=CC=C21)C=O)COC2=CC=C(C=C2)C#N | C16H12N4O2
